US06919329B2
Step 4: Preparation of 4-(3,6-dihydro-2H-thiopyran-4-yl)-3,5-difluorobenzenamine
To a stirred solution of 1-[4-(3,6-dihydro-2H-thiopyran-4-yl)-3,5-difluorophenyl]-2,5-dimethyl-1H-pyrrole (0.828 g, 2.71 mmol) in 95% ethanol/THF (10:1, 55 mL) is added hydroxylamine hydrochloride (3.77 g, 54.2 mmol) and triethylamine (3.8 mL, 27.1 mmol). The reaction mixture is heated at reflux for 2 days and then concentrated under reduced pressure, diluted with CH2Cl2 (60 mL), washed with water (3×20 mL), dried over anhydrous sodium sulfate, and concentrated under reduced pressure. Purification by chromatography on a Biotage Flash 40M 90 g silica gel cartridge, eluting with 10-20% EtOAC/Hexanes, affords the title compound, MS (ESI+) for C11H11F2NS m/z 228 (M+H)+; 1H NMR (CDCl3, 400 MHz) δ 6.22 (m, 2 H), 5.91 (m, 1 H), 3.83 (m, 2 H), 3.33 (m, 2 H), 2.86 (t, 2 H), 2.53 (m, 2 H).

reactant | 1-[4-(3,6-dihydro-2H-thiopyran-4-yl)-3,5-difluorophenyl]-2,5-dimethyl-1H-pyrrole | 2.71 mmol, 0.828 g | S1CCC(=CC1)C1=C(C=C(C=C1F)N1C(=CC=C1C)C)F | C17H17F2NS
reactant | hydroxylamine hydrochloride | 54.2 mmol, 3.77 g | Cl.NO
reactant | triethylamine | 27.1 mmol, 3.8 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol THF | 55 mL | C(C)O.C1CCOC1
product | 4-(3,6-dihydro-2H-thiopyran-4-yl)-3,5-difluorobenzenamine | S1CCC(=CC1)C1=C(C=C(C=C1F)N)F | C11H11F2NS
